US08071592B2
(f) 1,1-Dimethylethyl {1-[2-(8-ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate
(8-Ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde (0.168 g, 0.718 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (0.172 g, 0.860 mmol) was dissolved in CHCl3 (6 ml) and MeOH (0.6 ml) at rt under argon, whereupon NaBH(OAc)3 (0.497 g, 2.34 mmol) was added, after which it was stirred for 3 h. The reaction was then purified by chromatography on silica gel using a 0-20% MeOH in EtOAc gradient to give the title compound as a yellow oil (0.234 g, 72%).

reactant | (8-Ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 0.718 mmol, 0.168 g | C(C)C=1C(=CN=C2C=CC(N(C12)CC=O)=O)F | C12H11FN2O2
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 0.860 mmol, 0.172 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | MeOH | 0.6 ml | CO | CH4O
reactant | NaBH(OAc)3 | 2.34 mmol, 0.497 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CHCl3 | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1-Dimethylethyl {1-[2-(8-ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate | 0.234 g, 72% | C(C)C=1C(=CN=C2C=CC(N(C12)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O)F | C22H31FN4O3
